US07705027B2
Sodium ethoxide (2.8 g, 41 mmol) was added to a suspension of the 1-(2,4-bis-benzyloxy-5-tert-butyl-phenyl)-ethanone (7.8 g, 20 mmol) in ethanol (40 ml). Diethyl oxalate (4 ml, 29.5 mmol) was added and the resulting suspension heated under reflux for ˜2 hrs. to give a pale red solution. The solution was allowed to cool and poured into water (200 ml), the mixture was acidified with hydrochloric acid (50 ml, 1M) and extracted with dichloromethane (150 ml). The extracts were washed with water (2×200 ml) and saturated aqueous sodium chloride solution (100 ml). The solution was dried over anhydrous sodium sulphate and concentrated to a yellow gum. Trituration with hexane gave a yellow solid. Solids were removed by filtration and washed with hexane and dried in vacuo (40° C.), to give 4-(2,4-Bis-benzyloxy-5-tert-butyl-phenyl)-2-hydroxy-4-oxo-but-2-enoic acid ethyl ester as a yellow powder (9.1 g, 93%).

reactant | Sodium ethoxide | 41 mmol, 2.8 g | [O-]CC.[Na+]
reactant | 1-(2,4-bis-benzyloxy-5-tert-butyl-phenyl)-ethanone | 20 mmol, 7.8 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)(C)C)C(C)=O | C26H28O3
reactant | Diethyl oxalate | 29.5 mmol, 4 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrochloric acid | 1M, 50 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 4-(2,4-Bis-benzyloxy-5-tert-butyl-phenyl)-2-hydroxy-4-oxo-but-2-enoic acid ethyl ester | 9.1 g, 93% | C(C)OC(C(=CC(=O)C1=C(C=C(C(=C1)C(C)(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1)O)=O | C30H32O6
